US08124610B2
2-Fluoro-4-methylamino-N-thiazol-2-yl-benzenesulfonamide
Trifluoroacetic acid (1 mL, 0.01 mol) was added to a solution of the 4-[(2,4-dimethoxy-benzyl)-methyl-amino]-2-fluoro-N-thiazol-2-yl-benzenesulfonamide (0.22 g, 0.00050 mol) in methylene chloride (5.0 mL, 0.078 mol). The reaction solution was stirred for one hour then concentrated. The residue was partitioned between sat'd NaHCO3 and EtOAc. Organic layer was separated and the aq phase was extracted with EtOAc (2×). The combined organic layers were washed with water and brine, dried over Na2SO4. Evaporation of the solvent gave the crude product that was purified using Gilson preparative HPLC (reverse phase, Phenomenex 250×30 mm, 15 micron C18 column, 40 mL/min. Gradient, 85% A to 100% B over 25 min. Solvent A: 7800 water/200 acetonitrile/8 TFA. Solvent B: 7200 acetonitrile/800 water/8). Fractions were checked by LC/MS. The appropriate fractions were combined and dried on a lyophilizer to give the desired product as a pale yellow powder (62 mg, 43%).

reactant | Trifluoroacetic acid | 0.01 mol, 1 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 4-[(2,4-dimethoxy-benzyl)-methyl-amino]-2-fluoro-N-thiazol-2-yl-benzenesulfonamide | 0.00050 mol, 0.22 g | COC1=C(CN(C2=CC(=C(C=C2)S(=O)(=O)NC=2SC=CN2)F)C)C=CC(=C1)OC | C19H20FN3O4S2
reactant | methylene chloride | 0.078 mol, 5.0 mL | C(Cl)Cl | CH2Cl2
product | 2-Fluoro-4-methylamino-N-thiazol-2-yl-benzenesulfonamide | 62 mg, 43% | FC1=C(C=CC(=C1)NC)S(=O)(=O)NC=1SC=CN1 | C10H10FN3O2S2
